US07375115B2
2-[1-(2-Hydroxyethyl)cyclohexyl]propane-1,3-diol
To a solution of dimethyl 2-(1-methoxycarbonylmethylcyclohexyl)malonate (490 mg) in tetrahydrofuran (15 mL) was added lithium aluminum hydride (195 mg) under ice cooling. The solution was stirred under reflux for 1 hour, and then, cooled on ice. Diethyl ether was added to the solution, followed by addition of water (0.2 mL) and a 15% aqueous sodium hydroxide solution (0.2 mL). After stirring the solution at room temperature for 15 minutes, water (0.6 mL) was added thereto, and it was stirred at room temperature for additional 30 minutes. The solution was dried over anhydrous magnesium sulfate, and then, concentrated under reduced pressure. The resulting residue was purified by chromatography (silica gel, chloroform:methanol=85:15) to give the title compound (200 mg).

reactant | dimethyl 2-(1-methoxycarbonylmethylcyclohexyl)malonate | 490 mg | COC(=O)CC1(CCCCC1)C(C(=O)OC)C(=O)OC | C14H22O6
reactant | lithium aluminum hydride | 195 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | sodium hydroxide | 0.2 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 0.6 mL | O | H2O
solvent | water | 0.2 mL | O | H2O
product | 2-[1-(2-Hydroxyethyl)cyclohexyl]propane-1,3-diol | 200 mg | OCCC1(CCCCC1)C(CO)CO | C11H22O3
